* C:\Users\cb199\OneDrive\Desktop\EPS-sims\MPPT-v1.asc
XU1 N002 N006 N002 NC_01 NC_02 0 N009 NC_03 N008 N005 N007 N004 0 LT3652
R1 N006 0 100k
R2 N002 N006 450k
R4 N009 0 459k
R5 N008 N009 542k
C2 N002 0 10µ
D1 N003 N002 D
C3 N004 N005 1µ
D2 0 N004 D
D4 N008 vload D
L1 N005 N004 10µ
R3 N008 N005 0.05
C4 N008 0 10µ
D3 N008 N007 D
V1 N003 0 PULSE(0 12 1m 1n 1n 11m 50) Rser=1
V2 0 0 PULSE(5 8 2m 1n 1n 2m 4m)
XU2 MP_04 Vreg5 MP_05 N001 0 MP_06 MP_07 vload MP_08 vload LT3012
C1 vload 0 1µ
R6 Vreg5 N001 750k
R7 N001 0 250k
C5 Vreg5 0 3.3µ
R8 Vreg5 0 100k
D5 N002 vload D
C6 0 N008 10µ
.model D D
.lib C:\Users\cb199\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 1s 0s
.lib LT3012.lib
.lib LT3652.sub
.backanno
.end
