* C:\Users\cb199\OneDrive\Desktop\EPS-sims\MPPT-v2.asc
XU1 N002 N007 N002 NC_01 NC_02 0 N009 NC_03 N008 NC_04 N006 N003 0 LT3652
R1 N007 0 100k
R2 N002 N007 530k
C2 N002 0 10µ
D1 N004 N002 D
D4 N008 vload D
L1 N005 N003 10µ
C4 N008 0 10µ
V1 N004 0 12 Rser=1
V2 NC_05 NC_06 PULSE(5 8 2m 1n 1n 2 4)
XU2 MP_07 Vreg5 MP_08 N001 0 MP_09 MP_10 vload MP_11 vload LT3012
C1 vload 0 1µ
R6 Vreg5 N001 750k
R7 N001 0 250k
C5 Vreg5 0 3.3µ
R8 Vreg5 0 100k
D5 N002 vload D
D2 N008 N006 D
C3 N003 N006 1µ
R3 N008 N010 500k
R4 N010 0 330k
R5 N010 N009 51k
C6 N008 N009 33p
R9 N008 N005 50m
D3 0 N003 D
C7 N008 0 1µ
.model D D
.lib C:\Users\cb199\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 10s 0s
.lib LT3012.lib
.lib LT3652.sub
.backanno
.end
